US07348359B2
C. 2-Acetyl-4-(2-hydroxy-3,5-di-tert-butylphenyl) benzo[b]thiophene
A slurry of 365 mg (0.859 mmol) of 2-acetyl-4-(2-methoxymethoxy-3,5-di-tert-butylphenyl)benzo[b]thiophene into a mixture of 5 mL of THF and 5 mL of aqueous 6N HCl was heated to 50° C. overnight. After cooling, the THF was evaporated and the aqueous solution was extracted with ethyl acetate. The organic layer was dried over MgSO4 and evaporated under reduced pressure. The crude 2-acetyl-4-(2-hydroxy-3,5-di-tert-butylphenyl)benzo[b]thiophene was directly used in the next step. 1H-NMR (CDCl3), δ: 7.92 (d, J=8.0 Hz, 1H), 7.73 (s, 1H), 7.58 (t, J=7.4 Hz, 1H), 7.47 (d, J=2.6 Hz, 1H), 7.42 (d, J=2.3 Hz, 1H), 7.14 (d, J=2.4 Hz, 1H), 5.03 (s, 1H), 2.57 (s, 3H), 1.48 (s, 9H), 1.34 (s, 9H).

reactant | 2-acetyl-4-(2-methoxymethoxy-3,5-di-tert-butylphenyl)benzo[b]thiophene | 0.859 mmol, 365 mg | C(C)(=O)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)OCOC | C26H32O3S
reactant | HCl | 6N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Acetyl-4-(2-hydroxy-3,5-di-tert-butylphenyl) benzo[b]thiophene | C(C)(=O)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O | C24H28O2S
